US08048902B2
Step 2: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-chloro-phenyl)-ethyl ester
5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid (10 g, 35 mmol), (R)-1-(2-chloro-phenyl)-ethanol (6.6 g, 42 mmol), triethylamine (10 mL, 70 mmol), and diphenylphosphoryl azide (11.5 g, 42 mmol) were combined in toluene (100 mL) and stirred at 90° C. for 1 hour. The mixture was concentrated, and the residue was purified by silica gel chromatography (0-30% EtOAc in hexanes). The isolated product was recrystallized in 5:1 hexanes:acetone to give the title compound in >99% e.e (by chiral HPLC. Chiracel OD 98.4% hexanes/1.6% Ethanol. Major isomer 27.9 min minor isomer 32.7 min).

reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid | 35 mmol, 10 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)O | C11H8BrNO3
reactant | (R)-1-(2-chloro-phenyl)-ethanol | 42 mmol, 6.6 g | ClC1=C(C=CC=C1)[C@@H](C)O | C8H9ClO
reactant | triethylamine | 70 mmol, 10 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 42 mmol, 11.5 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-chloro-phenyl)-ethyl ester | ClC1=C(C=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C19H16BrClN2O3
